US07790793B2
Preparation of N-t-butyl-3,5-bis-(3-methylbutyrylamino)-benzamide
from 0.50 g (2.41 mmol) of 3,5-diamino-N-t-butyl-benzamide, 0.68 g (5.64 mmol) of 3-methylbutyric acid chloride, 30 ml of NMP, 5 ml of pyridine and 0.1 g of LiCl according to Method A.

reactant | 3,5-diamino-N-t-butyl-benzamide | 2.41 mmol, 0.50 g | NC=1C=C(C(=O)NC(C)(C)C)C=C(C1)N | C11H17N3O
reactant | 3-methylbutyric acid chloride | 5.64 mmol, 0.68 g | CC(CC(=O)Cl)C | C5H9ClO
reactant | NMP | 30 ml | CN1CCCC1=O | C5H9NO
reactant | LiCl | 0.1 g | [Li+].[Cl-]
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-t-butyl-3,5-bis-(3-methylbutyrylamino)-benzamide | C(C)(C)(C)NC(C1=CC(=CC(=C1)NC(CC(C)C)=O)NC(CC(C)C)=O)=O | C21H33N3O3
